US07157455B2
(4-Amino-2-ethylsulfanyl-pyrimidin-5-yl)-(3-methyl-thiophen-2-yl)-methanone
The compound was prepared from 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide, Example 1, and 2-bromo-3-methyl-thiophene (Aldrich) in an analogous manner as described in Example 169.

reactant | 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1C(=NC(=NC1)SCC)N)C | C9H14N4O2S
reactant | 2-bromo-3-methyl-thiophene | BrC=1SC=CC1C | C5H5BrS
product | (4-Amino-2-ethylsulfanyl-pyrimidin-5-yl)-(3-methyl-thiophen-2-yl)-methanone | NC1=NC(=NC=C1C(=O)C=1SC=CC1C)SCC | C12H13N3OS2
